data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_112964_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])(/[C:6]([C:4]([H:17])([H:18])[H:19])=[C:7](/[C:5]([H:20])([H:21])[H:22])[H:10])[O:8][H:9]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])[C@:6]([C:4]([H:17])([H:18])[H:19])([O:8][H:9])[C@:7]1([C:5]([H:20])([H:21])[H:22])[H:10],72.18760000001367
MR_515458_1,[C:1]([C:2]([N:5]([H:14])[H:15])([C:6](=[O:7])[H:16])[H:9])([N:3]([H:10])[H:11])([N:4]([H:12])[H:13])[H:8]>>[C:1](\[C:2]([N:5]([H:14])[H:15])([C:6]([N:4]([H:12])[H:13])([O:7][H:11])[H:16])[H:9])(=[N:3]/[H:10])[H:8],38.639567499999856
MR_643868_0,[C:1]([N:2]([N:3]([O:4][H:7])[H:8])[N:5]=[O:6])([H:9])([H:10])[H:11]>>[C:1](/[N:2]=[N:5]/[O:6][N:3]([O:4][H:7])[H:8])([H:9])([H:10])[H:11],46.898722499978334
MR_543880_1,[C:1]([C:3](=[C:2]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])/[C:7](=[C:6](\[O:8][H:9])[H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:3]1=[C:7]([H:15])[C:6]([O:8][H:9])([H:14])[C:2]1([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])([H:16])([H:17])[H:18],48.08783500004367
MR_340890_2,[C:1]([C:5]([N:4]([C:2]([H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[H:16])([O:7][H:8])[H:10])(=[O:6])[H:9]>>[C:1]1([O:6][H:8])([H:9])[C:5]([N:4]([C:2]([H:11])([H:12])[H:13])[C:3]([H:14])([H:15])[H:16])([H:10])[O:7]1,54.52347499995341
MR_294229_0,[C:1]([C:3]([C:2]([C:4](=[O:7])[H:8])=[O:6])=[C:5]([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1]([C:3]([C:4]1([H:8])[C:2](=[O:6])[O:7]1)=[C:5]([H:12])[H:13])([H:9])([H:10])[H:11],56.65320999999807
MR_154050_0,[C:1]([c:4]1[c:5]([C:2]([H:9])([H:13])[H:14])[o:7][c:3](=[O:8])[o:6]1)([H:10])([H:11])[H:12]>>[C:1]([C:4]1([C:5]([C:2]([H:9])([H:13])[H:14])=[O:7])[C:3](=[O:8])[O:6]1)([H:10])([H:11])[H:12],62.2398425000182
MR_544545_1,[C:1]1([N:3]([H:9])[H:10])([H:8])[C:2]([N:4]([H:11])[H:12])([N:7]=[C:5]([H:13])[H:14])[C:6]1([H:15])[H:16]>>[C:1]([C:2](=[C:6]([H:15])[H:16])[N:7]=[C:5]([H:13])[H:14])([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[H:8],60.17536749998712
MR_404163_1,[C:1]([C:6]([C:7]([C:2]([H:16])([H:17])[H:18])[C:9]([C:4]([H:22])([H:23])[H:27])[C:5]([H:24])([H:25])[H:26])[C:8]([C:3]([H:19])([H:20])[H:21])[N:10]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:6]1=[C:7]([C:2]([H:16])([H:17])[H:18])[C:9]([C:4]([H:22])([H:23])[H:27])([C:5]([H:24])([H:25])[H:26])[C@@:8]1([C:3]([H:19])([H:20])[H:21])[N:10]([H:11])[H:12])([H:13])([H:14])[H:15],35.49893000001063
MR_405055_1,[C:1]([C:5]([C:7]([C:3]([H:17])([H:18])[H:20])[C:4]([H:19])([H:21])[H:22])[N:8]([H:10])[H:11])([C:6]([C:2]([H:14])([H:15])[H:16])=[O:9])([H:12])[H:13]>>[C:1](=[C:5]([C:7]([C:3]([H:17])([H:18])[H:20])([C:4]([H:19])([H:21])[H:22])[C:6]([C:2]([H:14])([H:15])[H:16])=[O:9])[N:8]([H:10])[H:11])([H:12])[H:13],50.958020000038005
MR_676291_0,[C:1]1([H:10])([H:11])/[C:4](=[N:8]/[H:9])[O:7][C:5]([C:2]([H:12])([H:13])[H:14])=[C:6]1[C:3]([H:15])([H:16])[H:17]>>[C:1]1([H:10])([H:11])[C:4]([N:8][H:9])[C@@:6]1([C:3]([H:15])([H:16])[H:17])[C:5]([C:2]([H:12])([H:13])[H:14])=[O:7],51.57673500000968
MR_236031_0,[C:1](/[C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])=[C:5](\[O:7][H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:3]1=[C:4]([C:2]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[C:5]1([O:7][H:8])[H:9])([H:10])([H:11])[H:12],34.45477000004303
MR_279809_1,[C:1](\[N:7]([H:9])[H:10])(=[N:8]/[C:6]([C:4]([H:19])([H:20])[H:21])([N:5]([C:2]([H:13])([H:15])[H:16])[C:3]([H:14])([H:17])[H:18])[H:12])[H:11]>>[C:1]([N:7]([H:9])[H:10])(/[N:8]=[C:6](\[C:4]([H:19])([H:20])[H:21])[N:5]([C:2]([H:13])([H:15])[H:16])[C:3]([H:14])([H:17])[H:18])([H:11])[H:12],66.4842524999672
MR_326796_2,[N:1](=[C:2](\[N:4]([H:10])[H:11])[N:7](/[C:3]([N:5]([H:12])[H:13])=[N:8]/[H:14])[H:15])\[O:6][H:9]>>[N:1](/[C:2]([N:4]([H:10])[H:11])=[N:7]/[H:15])(/[C:3]([N:5]([H:12])[H:13])=[N:8]/[H:14])[O:6][H:9],55.50927749999701
MR_262223_2,[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[O:7])([O:4][O:5][H:8])([O:6][H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([O:4][O:5][H:8])=[O:7])([O:6][H:9])[H:10],58.92601499996687
MR_674167_0,[C:1]([C:2]([C:3](=[O:7])[H:9])=[O:6])([O:5][C:4](=[O:8])[H:12])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:2]([C:3](=[O:7])[H:9])([O:6][C:4](=[O:8])[H:12])[O:5]1,64.56723999999184
MR_49074_0,[C:1]1([O:6][H:8])([H:9])[C:3]([C:2]([H:11])([H:12])[H:13])([C:4](=[C:5]([H:14])[H:15])[H:10])[O:7]1>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4](=[C:5]([H:14])[H:15])[H:10])=[O:7])([O:6][H:8])[H:9],54.47515750000406
MR_106839_2,[C:1]1([C:3]([H:16])([H:17])[H:18])([H:10])[C:5]([N:4]([N:6]([H:11])[H:12])[H:9])([O:7][C:2]([H:13])([H:14])[H:15])[O:8]1>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:5]([N:4]([N:6]([H:11])[H:12])[H:9])=[O:8])([O:7][C:2]([H:13])([H:14])[H:15])[H:10],54.26996499998708
MR_252346_1,[C:1](=[C:6](\[C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[H:13])[O:10][C:5]([O:8][H:11])=[O:9])(\[N:7]([H:14])[H:15])[H:12]>>[C:1]([C:5]([O:8][H:11])=[O:9])([C:6]([C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[H:13])=[O:10])([N:7]([H:14])[H:15])[H:12],50.32675499999101
